* C:\Users\avent\OneDrive\Documents\EE499-FYP\LTSpice Boost Converter\LTC1871_BOM_Caps_Rev5b_WithCin_2.asc
* Generated by LTspice 24.1.10 for Windows.
Cin IN 0 120µ Rser=0.010
M§Q1 N002 N006 0 0 SQ4184EY
R1 N007 0 68.1K
R2 N008 0 56K
R3 OUT N008 499K
L1 IN N002 8.5µ Rser=0.0284
D1 N002 OUT MBRS340
C1a OUT 0 120µ Rser=0.0005
C1b OUT 0 14µ Rser=0.0025
R4 N004 N003 8.66K
C2 N003 0 6.8n
C3 N004 0 100p
X§U1 IN N005 N008 N007 0 0 N006 N001 IN N002 LTC1871 ;§pnba Run)Ith)FB)Freq)Mode)GND)Gate)INTVcc)Vin)Sense
V1 P001 0 {VIN}
C4 N001 0 4.7µ
I1 OUT 0 PWL(0 0.1 0.005 0.1 0.0055 1.5 0.0065 1.5 0.007 .1 0.008 .1 0.0085 2 0.0095 2 0.010 .1)
D2 N005 N004 1N4148
C1 N004 0 10n
R5 IN P001 50m
C5 OUT 0 100µ
.model D D
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\avent\AppData\Local\LTspice\lib\cmp\standard.mos
.param VIN=9.6
.tran 0 10m 5m uic
; --- PRE-STEP BASELINE ---
.meas TRAN Vout_before AVG V(OUT) FROM 0 TO 0.4m
.meas TRAN Vin_before AVG V(IN) FROM 0 TO 0.4m
.meas TRAN Vout_ripple_pre PP V(OUT) FROM 0 TO 0.4m
; --- EVENT 1: 0.1A to 1.5A ---
.meas TRAN Vout_droop1 MIN V(OUT) FROM 0.5m TO 1.4m
.meas TRAN Vout_post1 AVG V(OUT) FROM 1.0m TO 1.4m
.meas TRAN Vin_droop1 MIN V(IN) FROM 0.5m TO 1.4m
; --- INTER-EVENT ---
.meas TRAN Vout_idle AVG V(OUT) FROM 2.1m TO 3.4m
; --- EVENT 2: 0.1A to 2.0A ---
.meas TRAN Vout_droop2 MIN V(OUT) FROM 3.5m TO 4.4m
.meas TRAN Vout_post2 AVG V(OUT) FROM 3.8m TO 4.4m
.meas TRAN Vin_droop2 MIN V(IN) FROM 3.5m TO 4.4m
; --- POST-STEP METRICS ---
.meas TRAN Vout_ripple PP V(OUT) FROM 3.8m TO 4.4m
.meas TRAN IL_peak MAX I(L1) FROM 3.9m TO 4.4m
.meas TRAN IL_peak_pre MAX I(L1) FROM 0 TO 0.4m
.meas TRAN Pin AVG V(IN)*(-I(V1)) FROM 4.2m TO 4.4m
.meas TRAN Pout AVG V(OUT)*I(I1) FROM 3.8m TO 4.4m
; --- DERIVED METRICS ---
.meas TRAN LoadReg PARAM abs(Vout_before-Vout_post2)
.meas TRAN Eff PARAM Pout/Pin*100
.meas TRAN Vin_drop1 PARAM Vin_before-Vin_droop1
.meas TRAN Vin_drop2 PARAM Vin_before-Vin_droop2
.meas DC_dev RMS V(out) - 12.1985
* === Rev5 DERATED MODEL --- PCB-Realistic Simulation (7-Apr-2026) ===
* C1a: 6x22uF GRM31CR61E226M -> 90uF derated at 12V DC bias | Rser=0.5mOhm (ESR+PCB)
* C1b: 2x10uF GRM21BR61E106K -> 14uF derated at 12V DC bias | Rser=2.5mOhm (ESR+PCB)
* L1: XAL6060-103MEC 10uH -> 8.5uH at ~3A DC bias | Rser=28.4mOhm (DCR)
* V1: Rser=50mOhm (3S LiPo internal R + connector + wiring)
* ACTION: Manually add 2x22uF MLCC + 100uF electrolytic at VIN pin
.model SQ4184EY VDMOS(Rds=3.6m Vto=2.5 Kp=50 Cgdmin=1.5n Cgdmax=8n Cgs=4n Cjo=3n)
.lib LTC1871.sub
.backanno
.end
